US04496739
A mixture of cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylic acid (35.4 g), benzene (500 ml), 9.5% ethanol (45 ml) and conc. sulfuric acid (5.0 g) was refluxed for 10 hours, cooled, washed successively with water, 5% aqueous sodium hydroxide and water, and then concentrated under reduced pressure. The residue was recrystallized from 95% ethanol to give diethyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate (32.1 g). M.P., 74°-76° C.

reactant | cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylic acid | 35.4 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)O)C(=O)O)CC1=CC=CC=C1)=O | C19H18N2O5
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | 5.0 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 45 ml | C(C)O | C2H6O
product | diethyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate | 32.1 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)OCC)C(=O)OCC)CC1=CC=CC=C1)=O | C23H26N2O5
